US06528505B1
Step D: Synthesis of 3-(L-Alaninyl)amino-2,3-dihydro-1-(4,4,4-trifluorobutyl)-5-phenyl-1H-1,4-benzodiazepin-2-one
3-(N′-(tert-Butoxycarbonyl)-L-alaninyl)amino-2,3-dihydro-1-(4,4,4-trifluorobutyl)-5-phenyl-1H-1,4-benzodiazepin-2-one (1.21 g, 2.27 mmol) was added to 50 mL of a stirring solution of 15% TFA/methylene chloride in one portion. After stirring 2 h, the reaction mixture was concentrated under reduced pressure and the residue was dissolved in 100 mL of methylene chloride. This solution was washed twice with saturated sodium bicarbonate, once with brine and then dried over sodium sulfate. Purification of the crude product using silica gel column chromatography (1-5% methanol/methylene chloride) gave 670 mg (68%) of a light pink foam.

reactant | 3-(N′-(tert-Butoxycarbonyl)-L-alaninyl)amino-2,3-dihydro-1-(4,4,4-trifluorobutyl)-5-phenyl-1H-1,4-benzodiazepin-2-one | 2.27 mmol, 1.21 g | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)NC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)CCCC(F)(F)F)=O | C27H31F3N4O4
reactant | TFA methylene chloride | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 3-(L-Alaninyl)amino-2,3-dihydro-1-(4,4,4-trifluorobutyl)-5-phenyl-1H-1,4-benzodiazepin-2-one | 670 mg, 68% | N[C@@H](C)C(=O)NC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)CCCC(F)(F)F)=O | C22H23F3N4O2
